US03943201
A solution of 5.9 parts of diethyl methoxycarbonylphosphonate and 4.5 parts of sodium iodide was stirred at room temperature in 50 parts of tetrahydrofuran for 60 hours. The resulting mixture was filtered to give 3.5 parts of the desired ethyl sodium methoxycarbonylphosphonate, m.p. 123°d.

reactant | diethyl methoxycarbonylphosphonate | COC(=O)P(OCC)(OCC)=O | C6H13O5P
reactant | sodium iodide | [I-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl sodium methoxycarbonylphosphonate | COC(=O)P(O)(O)=O.C(C)[Na] | InChI=1S/C2H5O5P.C2H5.Na/c1-7-2(3)8(4,5)6;1-2;/h1H3,(H2,4,5,6);1H2,2H3;
